US06486186B2
Preparation of (3S,4R)-4-(3-Cyclopentyloxy-4-methoxyphenyl)-3-methyl-3-(2-methylaminothiazol-4-yl)pyrrolidine-1-carboxylic Acid Methyl Ester
To a solution of 1-methyl-2-thiourea (0.038 g, 0.418 mmol) in methanol (1 mL), at 50° C., was added a solution of (3S,4R)-3-(2-bromoethanoyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-3-methyl-pyrrolidine-1-carboxylic acid methyl ester (0.19 g, 0.42 mmol) in methanol (1 mL). The temperature was raised to 70° C. and refluxed for 2 hours. The reaction mixture then was concentrated under reduced pressure and dissolved in acetonitrile-water (CH3CN—H2O) (1 mL) for purification by HPLC on a C18 column (Luna 10 μ, C18, 250×10 mm). Gradient elution of 50-100% acetonitrile-water (0.05% TFA) yielded the named product as a white powder after lyophilization (91 mg, 49%).

reactant | 1-methyl-2-thiourea | 0.418 mmol, 0.038 g | CNC(=S)N | C2H6N2S
reactant | (3S,4R)-3-(2-bromoethanoyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-3-methyl-pyrrolidine-1-carboxylic acid methyl ester | 0.42 mmol, 0.19 g | COC(=O)N1C[C@@]([C@H](C1)C1=CC(=C(C=C1)OC)OC1CCCC1)(C)C(CBr)=O | C21H28BrNO5
solvent | methanol | 1 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
product | (3S,4R)-4-(3-Cyclopentyloxy-4-methoxyphenyl)-3-methyl-3-(2-methylaminothiazol-4-yl)pyrrolidine-1-carboxylic Acid Methyl Ester | COC(=O)N1C[C@]([C@H](C1)C1=CC(=C(C=C1)OC)OC1CCCC1)(C=1N=C(SC1)NC)C | C23H31N3O4S
